US04259352
Two grams of ethyl 4-(1-cyclopentylethylamino)-benzoylacetate is added to a solution of potassium hydroxide in 50 ml. of 1:9 water-ethanol. The reaction of neutralization with sulfuric acid gave a precipitate which is filtered, washed with water, and dried to yield 4-(1-cyclopentylethylamino)benzoylacetic acid.

reactant | ethyl 4-(1-cyclopentylethylamino)-benzoylacetate | Two grams | C1(CCCC1)C(C)NC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C18H25NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water ethanol | O.C(C)O
product | 4-(1-cyclopentylethylamino)benzoylacetic acid | C1(CCCC1)C(C)NC1=CC=C(C(=O)CC(=O)O)C=C1 | C16H21NO3
